US06617326B2
3-(5-Bromo-2-fluorophenyl)pyridine (3.1 g, 12.3 mmol), potassium acetate (3.62 g, 36.9 mmol) and bis(pinacolato)diboron (3.75 g, 14.8 mmol) were dissolved in 1,4-dioxane (40 ml) and dimethylsulfoxide (0.8 ml) and the mixture degassed with N2 for 15 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (300 mg, 0.37 mmol) was added and the mixture heated at 90° C. for 18 h. The mixture was cooled to ambient temperature and partitioned between diethyl ether (200 ml) and 2 N hydrochloric acid (50 ml). The organics were discarded and the aqueous phase adjusted to pH 8 by the addition of 4 N sodium hydroxide solution and extracted with diethyl ether (2×500 ml). The organic layer was washed with brine (50 ml), dried (Na2SO4), filtered and pre-adsorbed onto silica. Purification by flash column chromatography (silica gel, 25% EtOAc/isohexane) gave 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine (2.64 g, 72%) as a yellow oil that crystallised on standing: 1H NMR (360 MHz, CDCl3) δ 1.35 (12H, s), 7.20 (1H, dd, J 10, 8 Hz), 7.35-7.39 (1H, m), 7.81-7.91 (3H, m), 8.61 (1H, dd, J 5, 2 Hz), 8.82 (1H, s).

reactant | 3-(5-Bromo-2-fluorophenyl)pyridine | 12.3 mmol, 3.1 g | BrC=1C=CC(=C(C1)C=1C=NC=CC1)F | C11H7BrFN
reactant | potassium acetate | 36.9 mmol, 3.62 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 14.8 mmol, 3.75 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.37 mmol, 300 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | 2.64 g, 72% | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC=CC1 | C17H19BFNO2
